US07611725B2
Into a four-necked flask, fitted with a mechanical stirrer, condenser, thermometer and a Nitrogen inlet was added 665.53 g (1.40 moles) of PPG-4-N-Methyl-N,N-Diethanolamine Adipate oligomer, from Example 2, and 240.43 g (2.67 moles) of 1,3-Butanediol. With the reaction mixture at 30-35° C., 131.89 g (1.37 moles) of Methanesulfonic Acid (MSA) was slowly added to neutralize the amine. The reaction was monitored by measuring the Acid Value and Base Value of the reaction mixture over time. When Methanesulfonic salt of PPG-4-N-Methyl-N,N-Diethanolamine Adipate oligomer was formed, 120.51 g (1.30 moles) of Epichlorohydrin was charged. The reaction temperature was increased to 85-90° C. and kept under Nitrogen blanket while it stirred for the next 6 hours. Reaction was monitored by the drop in Acid Value. When the acid value stabilized, 541.63 g (1.6105 moles) of Cinnamidopropyldimethylamine was charged (Cinnamidopropyldimethylamine was prepared as disclosed in example 1 in U.S. Pat. No. 5,633,403). The reaction mixture was stirred for 6 hours at 85-90° C. and was monitored by a drop in Base Value. When the base value drop stabilized, the product was diluted with water to 64-68% actives to improve fluidity. The resulting product, [Poly(N-Hydroxypolyoxypropylethyl) N-Adipyl-Poly-Oxypropyl)-N-Methyl-N-(2,Hydroxy-3-Cinnamidopropyl Dimethyl Ammonium Chloride) Methane Sulfonate] was obtained as a viscous yellow liquid.

reactant | 1,3-Butanediol | 2.67 moles, 240.43 g | C(CC(C)O)O | C4H10O2
reactant | Methanesulfonic Acid | 1.37 moles, 131.89 g | CS(=O)(=O)O | CH4O3S
product | Methanesulfonic | CS(=O)(=O)OCCCCOS(=O)(=O)C | C6H14O6S2
